US05198449
N,α-bis(4-Fluorophenyl)-3-piperidinemethanamine
The title compound is prepared from 4-fluoroaniline and 3-(4-fluorobenzoyl)piperidine hydrochloride according to the procedure of Example 31.

reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 3-(4-fluorobenzoyl)piperidine hydrochloride | Cl.FC1=CC=C(C(=O)C2CNCCC2)C=C1
product | N,α-bis(4-Fluorophenyl)-3-piperidinemethanamine | FC1=CC=C(C=C1)NC(C1CNCCC1)C1=CC=C(C=C1)F | C18H20F2N2
